US04618677
The procedure described in Example 2 was followed, using 1.1 g of 4-ethoxycarbonylphenyl isocyanate, 2.0 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 0.7 g of triethylamine and 50 ml of methylene chloride, to give 0.85 g (28% of theory) of N-(4-ethoxycarbonylphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 231°-233° C.

reactant | 4-ethoxycarbonylphenyl isocyanate | 1.1 g | C(C)OC(=O)C1=CC=C(C=C1)N=C=O | C10H9NO3
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 2.0 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-ethoxycarbonylphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 0.85 g, 28% | Cl.Cl.C(C)OC(=O)C1=CC=C(C=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C24H32ClN3O3S.2ClH/c1-2-31-23(29)20-6-10-22(11-7-20)26-24(30)32-17-3-12-27-13-15-28(16-14-27)18-19-4-8-21(25)9-5-19;;/h4-11,26,30,32H,2-3,12-18H2,1H3;2*1H
